Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / a statin pill / Ultram
 
Attending: ___.
 
Chief Complaint:
Dizziness; nausea, vomiting
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
Ms. ___ is an ___ with a h/o CAD (MIx2 - most recently in 
___, who presented to ___ ER on ___ with one day of 
abdominal pain and loose stools. She reported that her abdominal 
pain began on the morning of presentation, localized to the 
midline, comes and goes without any inciting or mitigating 
factors. She reports ___ loose stools during the day today. She 
denies any other symptoms, no fevers, chills, shortness of 
breath, nausea or vomiting. 

 
Past Medical History:
- CAD s/p inferolateral STEMI in ___ with emergency BMS to 100% 
occluded PVL c/b rethrombosis requiring angioplasty, s/p STEMI 
___ at ___ treated with RCA ___  
- ___  
- GERD  
- OA  
- HLD  
- Anemia  

 
Social History:
___
Family History:
No known family Hx of CKD. Mother passed at age ___ from 
?PNA/?TB. Father died of old age. Brother alive, ___, doing well. 
5 children, all healthy  
 
Physical Exam:
Temp: ; P: ; BP: ; RR: ; O2%:
General: Alert, oriented X3, in no acute distress
HEENT: Normocephalic, atraumatic, oral mucosa moist
Resp: Clear breath sounds bilaterally
CV: RRR, no murmurs, rubs, or gallops
Abd: soft, non-distended, non-tender
Extr.: skin intact, atraumatic
 
Pertinent Results:
COMPLETE BLOOD COUNT ___ 
___   Hgb Hct  MCV MCH  MCHC RDW  RDWSD Plt Ct 
7.7 3.42  9.9 30.6 90  28.9 32.4 13.0 42.4  193 

RENAL & GLUCOSE ___  
Glucose UreaN Creat  Na  K   Cl HCO3 AnGap 
 75      13     0.9 140 3.8 108 25     11 

ENZYMES & BILIRUBIN  ___ 
ALT AST AlkPhos TotBili  
 9  20     104   0.5 

Lipase ___ 
24

Lactate 
___     2.01   
___     1.81 

CT ABD & PELVIS WITH CONTRAST ___

IMPRESSION:  
  
1. Wall thickening of several small bowel loops, which may 
reflect an 
enteritis of infectious, inflammatory, or ischemic etiology.  
Angioedema is also a consideration. 
2. Small amount of free fluid in the abdomen. 
3.  Sigmoid colon diverticulosis without evidence of 
diverticulitis. 

CT HEAD W/O CONTRAST ___

IMPRESSION: 
  
1. Minimal left parietal soft tissue swelling. 
2. No acute intracranial abnormality. 
3. No evidence of acute intracranial hemorrhage or fracture. 
4.  Paranasal sinus disease as described. 
5.  Atrophy, probable small vessel ischemic changes, and 
atherosclerotic 
vascular disease as described. 

HIP (UNILAT 2 VIEW) W/PELVIS ___

IMPRESSION:  
  
No evidence of acute fracture or dislocation.  However, if there 
is serious concern for an occult fracture, MRI could be 
obtained. 
Symmetric moderate degenerative changes seen in the hip joints 
with 
substantial degenerative disease also in the lower lumbar spine. 


 
Brief Hospital Course:
Ms. ___ presented to ___ on ___ with the chief 
complaint of abdominal pain; nausea and vomiting. CT Abd/Pelv 
with contrast done in the ED was read as wall thickening of 
several small bowel loops, which may reflect an enteritis of 
infectious, inflammatory, or ischemic etiology. A surgery 
consult was placed due to concerns of possible bowel ischemia. 
The patient was evaluated in the ED and was admitted to the ___ 
Surgery service with the plan of performing serial abdominal 
exams, keeping the patient on NPO/IVF and repeating lactate 
after hydration, her initial lactate was 3.6, however it down 
trended to 2.0 with hydration. The patient's serial abdominal 
exams had been non-significant during her hospital stay, her 
pain had improved along with her nausea and vomiting. Due to the 
possible infectious etiology of her enteritis, a GI consult was 
placed which confirmed the suspected infectious etiology, and 
since her symptoms had been improving, the recommendation was to 
advance diet as tolerated, and can examine stool for infectious 
etiology. On hospital day 2 the patient sustained a fall from 
standing after she got out of bed in the morning, in which she 
struck the left side of her head and hip, she had not lost 
consciousness, and fell after feeling weak as she had been NPO 
since the previous day, blood sugar was in the ___, and an EKG 
was non-contributory. A non-contrast head CT was negative, 
except for soft-tissues swelling which was not obvious on 
physical exam. A pelvis X-ray was negative for injury, as well.
The patient was discharged on hospital day number 3 with 
follow-up established with the ACS and infectious disease 
offices.

 
Medications on Admission:
1. Aspirin 81 mg PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Lisinopril 40 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
7. TiCAGRELOR 90 mg PO BID 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Lisinopril 40 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
7. TiCAGRELOR 90 mg PO BID 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Enteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.
 
Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
 
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
 
Avoid driving or operating heavy machinery while taking pain 
medications.
 

 
Followup Instructions:
___